US07994171B2
2-Chloro-4,6-dimethylpyrimidine (3.3 g, 0.023 mol) was combined with zinc cyanide (2.7 g, 0.023 mol, 1 eq.) and tetrakis(triphenylphosphine)palladium (0) (2.7 g, 0.0023 mol, 0.1 eq.) in DMF (20 ml), and the slurry was heated at 110° C. under nitrogen for 0.5 h. The mixture was cooled to room temperature, diluted with EtOAc (70 ml) and washed twice with 2N ammonium hydroxide (50 ml). The EtOAc solution was washed with brine (20 ml) and concentrated in vacuum to provide the crude mixture. The crude was then purified by column chromatography (30% EtOAc/hexane) to afford 4,6-dimethylpyrimidine-2-carbonitrile. Yield: 0.8 g (26%). 1H NMR (400 MHz, CDCl3): δ 2.48 (s, 6H), 7.21 (s, 1H). LCMS: (ES+) m/z=133.6 (M)+

reactant | 2-Chloro-4,6-dimethylpyrimidine | 0.023 mol, 3.3 g | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 70 ml | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 0.023 mol, 2.7 g, 1 eq. | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.0023 mol, 2.7 g, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4,6-dimethylpyrimidine-2-carbonitrile | CC1=NC(=NC(=C1)C)C#N | C7H7N3
